US08877975B2
(b) Synthesis of N-((1-(3,4-dichlorophenyl)cyclohexyl)methyl)-cyclopropanamine hydrochloride
The title compound was synthesized from 1-(3,4-dichlorophenyl)-N-cyclopropylcyclohexane carboxamide (108 mg, 0.35 mmol) using General Procedure E followed by HCl formation. The crude HCl salt was recrystallized from 3:1 EtOAc:CH3CN (4 mL) and 1:1 EtOAc:CH3CN (3 mL) to give pure N-((1-(3,4-dichlorophenyl)cyclohexyl)-methyl)cyclopropanamine hydrochloride as white crystals. HPLC Rt=9.02 min; 1H NMR (400 mHz, MeOH-d4) 7.57-7.52 (m, 2H), 7.35 (dd, J=1.83, 8.43 Hz, 1H), 3.29 (s, 2H), 2.56-2.54 (m, 1H), 2.16-2.13 (m, 2H), 1.67-1.30 (m, 8H), 0.78-0.74 (m, 4H); LC-MS 10.6 min, (M+1)+ 298 @ 10.8 min.

reactant | 1-(3,4-dichlorophenyl)-N-cyclopropylcyclohexane carboxamide | 0.35 mmol, 108 mg | ClC=1C=C(C=CC1Cl)C1(CCCCC1)C(=O)NC1CC1 | C16H19Cl2NO
reactant | HCl | Cl | ClH
product | N-((1-(3,4-dichlorophenyl)cyclohexyl)-methyl)cyclopropanamine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1(CCCCC1)CNC1CC1 | InChI=1S/C16H21Cl2N.ClH/c17-14-7-4-12(10-15(14)18)16(8-2-1-3-9-16)11-19-13-5-6-13;/h4,7,10,13,19H,1-3,5-6,8-9,11H2;1H
